US08227615B2
To 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-2-yl)cyclopropanecarboxamide (72 mg, 0.2 mmol), XANTPHOS (7.00 mg, 0.008 mmol), KtBuO (31 mg, 0.28 mmol), (DPPF)2PdCl2.CH2Cl2 (33.00 mg, 0.24 mmol), and 2-methoxyaniline (30 mg, 0.24 mmol), 1,4-dioxane (0.400 mL) and triethylamine (0.200 mL) were added. The reaction mixture was heated to 150° C. in a microwave reactor for 10 minutes. The resulting material was cooled to room temperature. The solvent was evaporated under reduced pressure. The resulting mixture was dissolved in dichloromethane and washed with H2O. The organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxyphenylamino)pyridin-2-yl)cyclopropanecarboxamide which was then treated with HCl in MeOH to form the HCl salt (2.4 mg, 0.0055 mmol, 2.7%). ESI-MS m/z calc. 403.1, found 404.5 (M+1)+; retention time 3.01 minutes.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-2-yl)cyclopropanecarboxamide | 0.2 mmol, 72 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)Br | C16H13BrN2O3
reactant | XANTPHOS | 0.008 mmol, 7.00 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | CH2Cl2 | 0.24 mmol, 33.00 mg | C(Cl)Cl | CH2Cl2
reactant | 2-methoxyaniline | 0.24 mmol, 30 mg | COC1=C(N)C=CC=C1 | C7H9NO
solvent | triethylamine | 0.200 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 0.400 mL | O1CCOCC1 | C4H8O2
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxyphenylamino)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)NC2=C(C=CC=C2)OC | C23H21N3O4
